US04367238
A mixture of 4-chlorophenyl 2-methoxy-3-methylphenyl ether (10.7 g), N-bromosuccinimide (8.3 g) and 2,2'-azobisisobutyronitrile (830 mg) in benzene (70 ml) was refluxed under heating for 2 hrs., and the reaction mixture was treated in a similar manner to that of Example 5-(3) to give oily 4-chlorophenyl 2-methoxy-3-bromomethylphenyl ether (14.9 g).

reactant | 4-chlorophenyl 2-methoxy-3-methylphenyl ether | 10.7 g | COC1=C(C=CC=C1C)OC1=CC=C(C=C1)Cl | C14H13ClO2
reactant | N-bromosuccinimide | 8.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobisisobutyronitrile | 830 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | 4-chlorophenyl 2-methoxy-3-bromomethylphenyl ether | 14.9 g | COC1=C(C=CC=C1CBr)OC1=CC=C(C=C1)Cl | C14H12BrClO2
